2165-12-08 06:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - tacrolimus level at EMMC [**12-6**] 5.6, c-diff [**12-4**] negative
   - per renal changed fluids to D5W - montior lytes 163 -> 162 -> 159 ->
   over last 12 hours
   - cont to trend lytes
   - repleted K and Phos, cont to follow UOP
   - one good peripheral line
 to IR [**12-8**] for PICC
   Allergies:
   Morphine Sulfate
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ciprofloxacin - [**2165-12-7**] 06:52 AM
   Metronidazole - [**2165-12-8**] 12:44 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-12-8**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 118 (106 - 129) bpm
   BP: 98/61(71) {98/61(71) - 131/96(101)} mmHg
   RR: 21 (15 - 27) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,293 mL
                                                                    716 mL
   PO:
             TF:
   IVF:
                                                                  2,293 mL
                                                                    716 mL
   Blood products:
   Total out:
                                                                    810 mL
                                                                    180 mL
   Urine:
                                                                    810 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,483 mL
                                                                    536 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///16/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   90 K/uL
   10.1 g/dL
   127 mg/dL
   1.4 mg/dL
   16 mEq/L
   3.5 mEq/L
   50 mg/dL
   133 mEq/L
   159 mEq/L
   32.0 %
   9.6 K/uL
        [image002.jpg]
                            [**2165-12-7**]  05:36 AM
                            [**2165-12-7**]  01:40 PM
                            [**2165-12-7**]  04:22 PM
                            [**2165-12-7**]  07:24 PM
                            [**2165-12-7**]  11:51 PM
   WBC
   10.0
   9.6
   Hct
   32.0
   32.0
   Plt
   104
   90
   Cr
   1.7
   1.5
   1.5
   1.4
   Glucose
   143
   106
   132
   116
   127
   Other labs: PT / PTT / INR:17.0/27.9/1.5, ALT / AST:[**11-7**], Alk Phos / T
   Bili:116/0.3, Differential-Neuts:69.2 %, Lymph:22.2 %, Mono:2.8 %,
   Eos:5.3 %, Albumin:3.0 g/dL, LDH:288 IU/L, Ca++:7.9 mg/dL, Mg++:1.9
   mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   This is a 36 y/o woman with PMH notable for PSC s/p liver
   transplantation X 2 admitted with diarrhea and hypernatremia.
   .
   # Hypernatremia: Sodium is climbing between last labs at EMMC (158) and
   labs done here (160). Unclear which fluids patient was transferred on,
   but it appears that she was changed to 1/2NS. I think that patient is
   still dehydrated-FeNA is 0.7%. However, given her aggressive repletion
   with sodium chloride, her chloride is now 140. Would favor further
   repletion with sodium bicarbonate instead of NaCl.
   - will give d5w at 150 cc / hour
   - have consulted renal for input given sodium is so elevated and
   difficult to treat in the setting of her diarrhea and renal
   insufficiency
 renal onboard, continue D5W at 150, increase free wtare
   around potassium replacement
   - continue to monitor, ideally q4h, will draw Q8 to minimize blood
   draws with Na correcting at slow pace
   - PICC eval by IV team [**12-8**]
   .
   # Acute renal failure: Creatinine up to 3.8 at OSH but now down to 1.7
   on our labs. Likely secondary to volume depletion with possibility of
   ATN that is resolving with aggressive fluid repletion. Also has urine
   eosinophils, so would like to check CBC/diff for eos as well. Has
   gotten ibuprofen lately for pain which could precipitate AIN.  Tacro
   level at EMMC [**12-6**] was 5.6
   - restarted tacrolimus with checks every AM
   - trend creatinine
 improving
   - adjust medications for improving renal fxn
   - no need for renal ultrasound given improvement in creatinine
   - renal following
   .
   # Diarrhea: Unknown when most recent antibiotics were given but due to
   chronic institutionalization and h/o C diff in the past, C diff is
   likely. Could also represent flare of ulcerative colitis but stools not
   necessarily bloody per records and husband.
   - cover empirically for C diff with flagyl
   - add on cipro given h/o UC
   - ? UC flare--> c/w findings by liver flexsigmoidoscopy
   - guaiac stools prn, trend crits
   - send C diff toxin, last c-diff [**12-4**] from EMMC was negative
   - continue mesalamine
   - hold steroids until
   # WBCs in urine: GNRs -> on cipro, await sensitivities.
   .
   # Cognitive deficits: Continue home medications, including ritalin,
   escitalopram, and risperdal.
   .
   # FEN: sips for now, replete lytes prn
   .
   # PPx: subQ heparin
   .
   # Access: PIV, PICC assessment [**12-8**]
   .
   # CODE: full code, discussed with patient's husband
   .
   # COMM: With patient and husband
   .
   # DISP: ICU care until access established and sodium stabilized
 ULCERATIVE COLITIS
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
 .H/O RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERNATREMIA (HIGH SODIUM)
 TRANSPLANT, LIVER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2165-12-7**] 01:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:  36 yo F with complicated medical hx--> ESLD
   [**1-26**] PSC s/p transplant X 2 in 4/[**2160**].  Initial transplant c/b acute
   rejection and cerebral edema, course further c/b respiratory failure,
   cardiac arrest and anoxic brain injury now with significant cognitive
   impairment, hypothyroidism, UC, and sz d/o who chronically resides in
   rehab facility.  Transferred to OSH [**12-5**] and to [**Hospital1 54**] floor [**12-6**] for
   several days of abd pain and diarrhea, hypernatremia (154-161) and
   ARF.  Treated empirically for C diff with flagyl (PO at OSH changed to
   IV here).  Due to difficult access and need for frequent blood draws
   was transferred to ICU this am for further management. Renal c/s
   appreciated.  Fluids changed to D5W with slow improvement in
   hypernatremia. Flex sig yesterday--> inflammation c/w colitis.
   Exam notable for Tm 97.8 BP 98/61HR 118 RR 21 100% on RA .+ 1400 cc
   Thin F in NAD, unable to coop with exam, seems more alert today, flat
   JVs, tachy but regular, lungs CTA, abd with NSBS, no r/g, neuron at
   baseline
   Labs notable for WBC 9.6 K, hct 32 (st) na 159 (163), k 3.5, chloride
   133, cr 1.4 (from 3.8)
   Tacro level 5.6 (OSH)
   MICRO urine cx GNR--[**Last Name (un) **] pending, C diff neg at OSH, pending here
   Active issues include:
     * Hypernatremia
        abd pain/diarrhea
         Colitis (on flex sig)
         suspected c. diff
         UTI
         ARF (? on chronic)
         recurrent PBC in transplanted liver and known UC
         baseline cognitive impairment
   Hypernatremia improving slowly.  Will increase D5W rate to 150 /h and
   encourage PO fluids.  Follow sodium Q 8 hrs.  Renal input appreciated.
   ARFalso improving with hydration.  [**Month (only) 60**] have basleine underlying renal
   dysfx--will obtain OSH records.  Adjust med dosing accordingly.
   Regarding diarrhea--continues to have loose stools.  OSH c diff neg.
   S/p flex sig which appeared most c/w colitis. Await CMV/viral cxs prior
   to starting steroids for UC flare.  Sending repeat cdiff toxin X 2 and
   continuing empiric flagyl treatment.  Ucx now + for GNR--continue cipro
   and f/u cx data.  Liver team following.  Continue tacro at [**Hospital1 **] dosing
   checking daily levels. As pt is unable to cooperate with central line
   placement, is scheduled for IR palced picc tomorrow.  Currentl;y has
   adequate PIV access.
   Patient is critically ill, remains in ICU
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 744**] [**Last Name (NamePattern1) 1165**], MD
   on:[**2165-12-8**] 02:24 PM ------

2165-12-09 06:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - lost peripheral access
   -scheduled for re-eval by PICC team
   Allergies:
   Morphine Sulfate
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2165-12-9**] 01:00 AM
   Ciprofloxacin - [**2165-12-9**] 04:52 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-12-9**] 05:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-12-9**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 101 (100 - 124) bpm
   BP: 116/71(83) {99/56(67) - 167/126(135)} mmHg
   RR: 22 (14 - 27) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  5,620 mL
                                                                  1,225 mL
   PO:
                                                                    950 mL
             TF:
   IVF:
                                                                  4,670 mL
                                                                  1,225 mL
   Blood products:
   Total out:
                                                                    785 mL
                                                                    300 mL
   Urine:
                                                                    785 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,835 mL
                                                                    925 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///17/
   Physical Examination
   Gen: NAD
   HEENT: NCAT, EOMI, moist mm
   Chest: CTAB, no w/r/r
   CV: tachycardic, s1s2
   Abd: mild ttp periubilical, hyperactive bs
   Ext: no edema
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   104 K/uL
   9.6 g/dL
   121 mg/dL
   1.1 mg/dL
   17 mEq/L
   3.7 mEq/L
   20 mg/dL
   124 mEq/L
   148 mEq/L
   28.7 %
   10.8 K/uL
        [image002.jpg]
                            [**2165-12-7**]  05:36 AM
                            [**2165-12-7**]  01:40 PM
                            [**2165-12-7**]  04:22 PM
                            [**2165-12-7**]  07:24 PM
                            [**2165-12-7**]  11:51 PM
                            [**2165-12-8**]  07:13 AM
                            [**2165-12-8**]  03:43 PM
                            [**2165-12-9**]  02:48 AM
   WBC
   10.0
   9.6
   10.8
   Hct
   32.0
   32.0
   28.7
   Plt
   104
   90
   104
   Cr
   1.7
   1.5
   1.5
   1.4
   1.3
   1.2
   1.1
   Glucose
   143
   106
   132
   116
   127
   127
   139
   121
   Other labs: PT / PTT / INR:16.8/26.7/1.5, ALT / AST:[**11-7**], Alk Phos / T
   Bili:116/0.3, Differential-Neuts:69.2 %, Lymph:22.2 %, Mono:2.8 %,
   Eos:5.3 %, Albumin:3.0 g/dL, LDH:288 IU/L, Ca++:7.8 mg/dL, Mg++:1.7
   mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   This is a 36 y/o woman with PMH notable for PSC s/p liver
   transplantation X 2 admitted with diarrhea and hypernatremia.
   .
   # Hypernatremia: Sodium is climbing between last labs at EMMC (158) and
   labs done here (160). Unclear which fluids patient was transferred on,
   but it appears that she was changed to 1/2NS. I think that patient is
   still dehydrated-FeNA is 0.7%. However, given her aggressive repletion
   with sodium chloride, her chloride is now 140. Would favor further
   repletion with sodium bicarbonate instead of NaCl.  Seen by renal
   started on D5W with improvement.  Na correction 11 points since
   previous blood draw.
   - will decrease D%W to 100 cc / hour, slow down Na correction but
   continue fluid repletion for stool output
   - have consulted renal for input given sodium is so elevated and
   difficult to treat in the setting of her diarrhea and renal
   insufficiency
 renal onboard
   - continue to monitor Na level
   - PICC eval by IV team [**12-8**]
   .
   # Acute renal failure: Creatinine up to 3.8 at OSH but now down to 1.7
   on our labs. Likely secondary to volume depletion with possibility of
   ATN that is resolving with aggressive fluid repletion. Also has urine
   eosinophils, so would like to check CBC/diff for eos as well. Has
   gotten ibuprofen lately for pain which could precipitate AIN.  Tacro
   level at EMMC [**12-6**] was 5.6. [**12-9**] level 5.2.
   - restarted tacrolimus with checks every AM
   - trend creatinine
 improving to 1.1 [**12-9**]
   - renal following
   - issue resolved
   .
   # Diarrhea: Unknown when most recent antibiotics were given but due to
   chronic institutionalization and h/o C diff in the past, C diff is
   likely. Could also represent flare of ulcerative colitis but stools not
   necessarily bloody per records and husband.
   - cover empirically for C diff with flagyl
   - add on cipro given h/o UC
   - ? UC flare--> c/w findings by liver flexsigmoidoscopy
   - guaiac stools prn, trend crits
   - send C-diff toxin, last c-diff [**12-4**] from EMMC was negative
   - continue mesalamine
   - hold steroids until CMV cx is negative
   .
   # UTI: GNRs -> on cipro, await sensitivities.
   .
   # Liver transplant: pt with liver ransplant
   -cont tacrolimus
   -will start Valcyte to cover for CMV, will await cx results
   -tacro levels daily, follow hep recs re: dosing
   .
   # Cognitive deficits: Continue home medications, including ritalin,
   escitalopram, and risperdal.
   .
   # FEN: sips for now, replete lytes prn, will talk to GI/Liver w/r/t
   diet
   .
   # PPx: subQ heparin
   .
   # Access: PICC placed [**12-9**]
   .
   # CODE: full code, discussed with patient's husband
   .
   # COMM: With patient and husband
   .
   # DISP: C/O as Na and access issues are resolving
 ULCERATIVE COLITIS
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
 .H/O RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERNATREMIA (HIGH SODIUM)
 TRANSPLANT, LIVER
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 ULCERATIVE COLITIS
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
 .H/O RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERNATREMIA (HIGH SODIUM)
 TRANSPLANT, LIVER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2165-12-8**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Critical Care
   Present for key portions of history and exam. Agree with plan as
   outlined above. She is continuing to have substantial stool output but
   Na is correcting appropriately with free water.  PO intake remains poor
   but she is taking clear liqs
 hard to tell if she is thirsty.  First
   stool is pending but seems most likely output is due to her colitis
   which will likely require steroids.
   Time spent
 35 min
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 115**] [**Last Name (NamePattern1) 116**], MD
   on:[**2165-12-9**] 14:33 ------